US04772704
5-Nitro-2-[3-(3-piperidinomethylphenoxy)propylamino]-4(3H)-pyrimidone
A solution of 3-(3-piperidinomethylphenoxy)propylamine (8.20 g; 33.0 mmoles) and 2-methylthio-5-nitro-4-hydroxypyrimidine (6.20 g; 32.5 mmoles) [prepared according to the procedure described in U.S. Pat. No. 4,241,056] in 35 ml of ethanol was stirred at reflux temperature for 18 hours. The reaction mixture was evaporated under reduced pressure, and the residue was placed on 250 g of silica gel (230-400 mesh) and chromatographed by flash chromatography using a gradient elution of methanol-methylene chloride. The appropriate fractions were combined and evaporated, and the product was recrystallized from tetrahydrofuran to give the title compound, mp 161°-164° C.

reactant | 3-(3-piperidinomethylphenoxy)propylamine | 33.0 mmoles, 8.20 g | N1(CCCCC1)CC=1C=C(OCCCN)C=CC1 | C15H24N2O
reactant | 2-methylthio-5-nitro-4-hydroxypyrimidine | 32.5 mmoles, 6.20 g | CSC1=NC=C(C(=N1)O)[N+](=O)[O-] | C5H5N3O3S
solvent | ethanol | 35 ml | C(C)O | C2H6O
product | 5-Nitro-2-[3-(3-piperidinomethylphenoxy)propylamino]-4(3H)-pyrimidone | [N+](=O)([O-])C=1C(NC(=NC1)NCCCOC1=CC(=CC=C1)CN1CCCCC1)=O | C19H25N5O4
